US08258175B2
3-Benzylsulfanyl-3-(4-chlorophenyl)-2-propylisoindolin-1-one
Distilled THF was added to 3-chloro-3-(4-chlorophenyl)-2-propylisoindolin-1-one (1.06 g, 3.31 mmol) followed by benzyl mercaptan (0.855 mL, 7.29 mmol) as for general procedure C. On addition of the benzyl mercaptan, a pale pink precipitate formed which turned white over time. The ethyl acetate was mostly removed under vacuum. On leaving overnight in the fridge, clear crystals formed. The crude product was purified by flash column chromatography (20:80, EtOAc:petrol) and recrystallised in the minimum amount of hot ethyl acetate giving large colourless crystals of 3-benzylsulfanyl-3-(4-chlorophenyl)-2-propyl-2,3-dihydroisoindolin-1-one (918 mg, 2.25 mmol, 68%). Rf 0.68 (40:60 EtOAc:petrol). Mp. 131.5-133.4° C. λmax (CH3OH)/nm 223.0, Abs 0.964. IR: 3161, 2968, 1665, 1608, 1467, 1435, 1402 cm−1. 1H NMR (300 Hz, CDCl3); δ 0.72 (t, 3H, J=7.5 Hz, N(CH2)2—CH3), 1.37 (m, 1H, N—CH2—CH2—CH3), 1.57 (m, 1H, N—CH2—CH2—CH3), 2.80 (d, 1H, J=12 Hz, S—CH2), 3.10 (d, 1H, J=12 Hz, S—CH2), 3.17 (m, 1H, N—CH2), 3.36 (m, 1H, N—CH2), 6.92-7.81 (m, 13H, Ar). 13C NMR (75 Hz, CDCl3); 111.8 (N—(CH2)2—CH3), 21.5 (N—CH2—CH2), 33.4 (S—CH2), 42.6 (N—CH2), 78.2 (S—C—N), 123.2, 123.4, 127.3, 128.0, 128.5, 128.9, 128.9, 131.0, 132.8, 134.9, 135.8, 137.1, 148.3 (Ar), 167.9 (C═O). LC/MS-ES+ m/z 410.6, 408.7, 286.1, 287.1. Anal. Calcd. for C24H22ClNOS: C, 70.66; H, 5.44; N, 3.43%. Found C, 70.60; H, 5.51; N, 3.51%.

reactant | 3-chloro-3-(4-chlorophenyl)-2-propylisoindolin-1-one | 3.31 mmol, 1.06 g | ClC1(N(C(C2=CC=CC=C12)=O)CCC)C1=CC=C(C=C1)Cl | C17H15Cl2NO
reactant | benzyl mercaptan | 7.29 mmol, 0.855 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3OH | CO | CH4O
product | 3-Benzylsulfanyl-3-(4-chlorophenyl)-2-propylisoindolin-1-one | C(C1=CC=CC=C1)SC1(N(C(C2=CC=CC=C12)=O)CCC)C1=CC=C(C=C1)Cl | C24H22ClNOS
